Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Hearing voices"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old male
with past psychiatric history of schizophrenia with multiple
prior hospitalizations who presents with two days of command
auditory hallucinations telling him to kill himself and hurt
other people. 

He states that these hallucinations have been ongoing for two
days and that they have been telling him to kill himself. He
states that they do have a specific plan they suggest, but that
he does not want to follow the plan and does not want to tell
this writer what it is. He states that he was told by a past
provider that if he were ever to experience voices telling him 
to
hurt himself or others he should go to the ED, and so that is
what he did. 

He also reports that they have been suggesting that he do things
to hurt random strangers. He states they have not been 
suggesting
killing strangers, only hurting them in ways he does not wish to
discuss. He also states the voices have been telling him to ___
strangers. 

He states that he has hallucinations at baseline, but that these
command hallucinations have only been occurring in the past two
days in the context of his being unable to take his Risperdal. 

He states that he recently came here from ___ about a week
ago. He states that while in ___, about three weeks ago he
was hospitalized at ___ for about two and a half weeks,
during which time he was started on Risperdal Consta as well as
PO Risperdal, however he has been unable to refill his
prescription for PO Risperdal and so has not been able to take 
it
as prescribed. 

He states that he came from ___ in order to find work. He
states that he is homeless and lives in the streets and does not
have a support system in ___. He states that he lives off 
of
social security but that he has been having a conflict with his
payee. 

In addition to the auditory hallucinations, he also endorses
having fears that people are out to get him, which he states he
has had since ___ when he was on the news all the time related
to his hacking of public figures who had been stealing money 
from
the public. He states that he was using satellites to hack into
their information to change the prices that they were charging,
and that they responded by moving their satellites. 

He also requests band-aids for several small lacerations on his
feet. He initially will not tell this writer where the cuts are
from. When asked again at the end of the interview, he states
that someone cut him with a knife in his sleep, and that this
person was in the military and so is stealthy, and states "long
story." 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 Hospitalizations: Reports multiple prior hospitalizations
("maybe 200"), the first being in ___ in ___,
most recently at ___ in ___ for 2.5 weeks about a month
ago
 Past diagnoses: Schizophrenia
 Medication and ECT trials: States he has tried Risperdal
including Risperdal consta, Cogentin, denies others
 Current treaters and treatment: Denies having any providers in
___, ___ most recently saw providers at ___ in ___
 Suicide attempts: Denies 
 Self-injury: Denies
 Trauma: Denies 
 Harm to others: States "no comment" 
 Access to weapons: Denies after pausing to think about it

PAST MEDICAL HISTORY: Denies any PMH other than schizophrenia, 
no
history of seizures or head trauma

 
Social History:
SUBSTANCE ABUSE HISTORY:
 EtOH: States that last week he drank 4 beers and one shot on 
one
occasion, states that this is rare for him and that usually he
does not drink
 Tobacco: Smokes ___ PPD 
 Marijuana: Used to smoke in ___ but has not since he 
left
___ about a year ago
 Illicits: Denies other substance use including IVDU, benzos,
amphetamines, opiates. 

 

FORENSIC HISTORY:
 Arrests: States he has been detained in the past based on "lies
and bribery" 
 Convictions and jail terms: States he has spent time in jail
based on "lies and bribery", will not elaborate further though
states he has never been arrested for assault when asked. 
 Current status (pending charges, probation, parole): Denies any
current pending charges

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
 Psychiatric illness: Denies family history of schizophrenia or
other psychiatric illness
 Suicide: Denies 
 
Physical Exam:
 *VS:  temp: 97.9  HR: 90  BP: 114/58   resp: 16  O2 sat: 99% on
RA    
  
 Neurological:  
  *station and gait: sitting up in bed, no truncal ataxia noted 
*tone and strength: moves all four extremities spontaneously
against gravity
  cranial nerves: no gross facial asymmetry, eyes track examiner
appropriately
  abnormal movements: no adventitious movements or abnormal
posturing noted
  frontal release: not assessed

Cognition: 
  Wakefulness/alertness: awake, alert
  *Attention (digit span, MOYB): Performs MOYB with one error,
which he self corrects
  *Orientation: Oriented to city, state, situation, unsure which
hospital he is in, oriented to self, date 
  *Memory:  Registers ___ words, recalls ___ after 5 minutes
without prompting and the third with multiple choice prompting
  *Fund of knowledge: Appears consistent with level of education
  Calculations: Able to perform 7 quarters in $1.75
  Abstraction: Interprets book/cover proverb as "people lie 
about
their cover" 
  *Speech: Regular rate, rhythm, volume, prosody
  *Language: Fluent ___
  
 Mental Status:
  *Appearance:  Malodorous, lying in hospital bed, has multiple
lacerations on both ankles
  Behavior: Pleasant, mostly cooperative with interview thought
at times refuses to answer certain questions
  *Mood and Affect: "Cut up a little"/Blunted affect, at times
guarded
  *Thought process / *associations:  Mostly linear, goal
directed, though at times becomes tangential when discussing
delusional content including his history of hacking via
satellite, no loosening of associations noted 
  *Thought Content: Endorses CAH telling him to kill himself and
hurt others, endorses paranoid thoughts and thoughts appear to
have delusional content about hacking public figures and people
being after him due to this, also endorses having been cut by
someone from the military in his sleep. 
  *Judgment and Insight: Poor/poor

 
Pertinent Results:
___ 06:36PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#)Schizophrenia: We treated patient with risperidone as he 
endorsed that this medication had been helpful for him in the 
past at ___ mg. We uptitrated his dose to 4 mg qhs and gave him  
Risperidone Consta injection of 25 mg IM on day of discharge 
(___). He should continue the oral risperidone as well for a 
minimum of 3 weeks. At time of discharge, he continued to 
endorse grandiose delusions of being a ___ 
___ and mingling with multiple ___ but was calm 
and cooperative with care. He did not appear to be manic or 
depressed and did not endorse any thoughts of wanting to hurt 
himself or others. He was given an intake appointment at the 
___ as well as a list of homeless shelters at 
discharge.

4. MEDICAL- no acute medical issues

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit but he did 
not participate. He spent most of his time in bed.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT: Pt did not allow us 
to contact any family.

RISK ASSESSMENT
Static risk factors for self-harm include: male gender, chronic 
mental illness, lack of known connection to family. Modifiable 
risk factors include: lack of MA health insurance (applied for 
___ during this admission) and chronic psychotic disorder 
leading to thought disorganization. He is being discharged with 
protective factors which include: desire to follow-up with 
outpatient providers, history of help-seeking behavior and 
desired medication compliance.

Our Prognosis of this patient is guarded and would be improved 
if he commits to staying in one state in order to access 
wrap-around outpatient mental health services.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  RisperiDONE Long Acting Injection 25 mg IM ONCE Duration: 1 
Dose 
Next injection due ___  
2.  RisperiDONE 4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
schizophrenia

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___